US04186129
5.5 mmol of 2-amino-(3,4-dimethoxyphenyl)-propanol is dissolved in 50 ml. of chloroform and stirred with 1.05 g. (6.5 mmol) of carbonyl diimidazole for 2 hours under the exclusion of moisture. After allowing the reaction mixture to stand overnight, the mixture is extracted with the use of 50 ml. of distilled water, dried, filtered, and concentrated. After chromatography of the residue over 50 g. of silica gel with chloroform/methanol (95:5) as the eluent and recrystallization from ethyl acetate/petroleum ether, a 24% yield is obtained of 5-(3,4-dimethoxyphenyl)-4-methyl-2-oxazolidinone, m.p. 98°-99°.

reactant | 2-amino-(3,4-dimethoxyphenyl)-propanol | 5.5 mmol | NC(C(O)C1=CC(=C(C=C1)OC)OC)C | C11H17NO3
reactant | carbonyl diimidazole | 6.5 mmol | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(3,4-dimethoxyphenyl)-4-methyl-2-oxazolidinone | 24% yield | COC=1C=C(C=CC1OC)C1C(NC(O1)=O)C | C12H15NO4
